US06911476B2
Preparation of Methyl 4-[4-(1-methyl-2-{[(methylethyl)sulfonyl]amino}ethoxy)phenyl]benzoate.
[2-(4-Bromophenoxy)propyl][(methylethyl)sulfonyl]amine (500 mg, 1.487 mmol) was combined with bis(pinicolato)diboron (415 mg, 1.636 mmol), potassium acetate (440 mg, 4.461 mmol), [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride complex (0.045 mmol) and dimethylformamide (10 mL) in a 3-neck round bottomed flask fitted with a thermometer, stirbar, condenser, and in a nitrogen system. This reaction mixture was refluxed to 80° C. with stirring, for three hours. The reaction mixture was cooled to room temperature, and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride complex (0.045 mmol) was added, followed by 2M sodium carbonate (3.7 mL), and refluxed to 80° C., with stirring, overnight. The reaction was cooled to room temperature, and diluted with 100 mL of diethyl ether, and washed with 100 mL water and 100 mL brine. Organic layer was dried with potassium carbonate, filtered and concentrated in-vacuo, yielding 1.53 g of brown solid. This material was further purified using a 6000 uM rotor on a Chromatotron in a 1:1 hexanes:ethyl acetate solvent system to provide the title compound (50 mg, 9%) as yellow crystals.

reactant | [2-(4-Bromophenoxy)propyl][(methylethyl)sulfonyl]amine | 1.487 mmol, 500 mg | BrC1=CC=C(OC(CNS(=O)(=O)C(C)C)C)C=C1 | C12H18BrNO3S
reactant | potassium acetate | 4.461 mmol, 440 mg | C(C)(=O)[O-].[K+]
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | sodium carbonate | 2M, 3.7 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | Methyl 4-[4-(1-methyl-2-{[(methylethyl)sulfonyl]amino}ethoxy)phenyl]benzoate | 1.53 g | CC(CNS(=O)(=O)C(C)C)OC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C20H25NO5S
